US08202858B2
N-Cyclopropyl-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-N-piperidin-4-ylmethyl-propionamide Hydrochloride
4-[(Cyclopropyl-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-amino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester from Example E87.1 (235 mg, 0.37 mmol) was dissolved in 4M HCl solution in dioxan (5 ml). The mixture was stirred for 1 h at room temperature, concentrated in vacuo and azeotroped with toluene. The residue was dissolved in 1M HCl, washed twice with dichloromethane and freeze-dried to give an off-white solid identified as the title compound (82 mg, 39%).

reactant | 4-[(Cyclopropyl-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-amino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O)C2CC2 | C36H46N6O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-N-piperidin-4-ylmethyl-propionamide Hydrochloride | 82 mg, 39% | Cl.C1(CC1)N(C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O)CC2CCNCC2 | InChI=1S/C31H38N6O2.ClH/c1-21-17-24(31(39)37-20-25-18-33-35(2)30(25)34-27-5-3-4-6-28(27)37)8-7-23(21)9-12-29(38)36(26-10-11-26)19-22-13-15-32-16-14-22;/h3-8,17-18,22,26,32,34H,9-16,19-20H2,1-2H3;1H
